US08486967B2
c) 2-[6-(4-Chloro-benzyl)-2-(2′,5′-dimethyl-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylamino)-pyrimidin-4-yl]-propan-2-ol
To a mixture of 2′,5′-dimethyl-3,4,5,6-tetrahydro-2H-[1,4]bipyridinyl-4-ylamine (143 mg, 0.48 mmol), 2-[2-chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol (99 mg, 0.48 mmol), finely milled potassium carbonate (100 mg, 0.72 mmol) in dioxane (2 mL) was added under an argon atmosphere palladium(II) acetate (5 mg, 0.02 mmol) and 2-(dicyclohexylphosphino)biphenyl (17 mg, 0.05 mmol) and the reaction mixture was heated at 150° C. for 30 minutes. Concentration and purification by chromatography (SiO2, n-heptane/ethyl acetate/(ethyl acetate/triethylamine=95:5)=50:50:0 to 0:80:20) afforded the title compound (67 mg, 30%) as a light brown foam.

reactant | 2′,5′-dimethyl-3,4,5,6-tetrahydro-2H-[1,4]bipyridinyl-4-ylamine | 0.48 mmol, 143 mg | CC1=NC=C(C(=C1)N1CCC(CC1)N)C | C12H19N3
reactant | 2-[2-chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol | 0.48 mmol, 99 mg | ClC1=NC(=CC(=N1)C(C)(C)O)CC1=CC=C(C=C1)Cl | C14H14Cl2N2O
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.05 mmol, 17 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.02 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[6-(4-Chloro-benzyl)-2-(2′,5′-dimethyl-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylamino)-pyrimidin-4-yl]-propan-2-ol | 67 mg, 30% | ClC1=CC=C(CC2=CC(=NC(=N2)NC2CCN(CC2)C2=CC(=NC=C2C)C)C(C)(C)O)C=C1 | C26H32ClN5O
